US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.113 g, 0.408 mmol) was reacted with N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)biphenyl-4-carboxamide hydrochloride (0.106 g, 0.408 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-pentylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.75 (s, 1H), δ 7.57 (d, 2H), δ 7.27 (s, 1H), δ 7.12 (d, 2H), δ 4.48 (s, 2H), δ 3.84 (s, 2H), δ 2.55 (m, 4H), δ 2.22 (s, 2H0, δ 1.50 (s, 13H), δ 1.23 (s, 8H), δ 0.80 (t, 3H); 13C NMR (75 MHz, CDCl3) δ ppm 168.3, 150.5, 149.5, 148.2, 147.2, 138.6, 131.5, 128.7, 127.4, 106.4, 84.8, 49.4, 40.2, 35.9, 31.6, 31.0, 29.3, 28.9, 28.1, 27.9, 25.6, 22.6, 14.2; HRMS (ESI) calcd for C29H43N7O3 (M+) 537.3427. found 537.3420, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-pentylbenzamide hydrochloride (0.178 g, 92% yield). 1H NMR (300 MHz, CD3OD) δ 8.41 (s, 1H), δ 7.69 (d, 2H), δ 7.21 (d, 2H), δ 6.46 (s, 1H), δ 4.84 (s, 2H), 3.90 (s, 2H), δ 2.79 (s, 2H), δ 2.58 (t, 2H), δ 2.39 (t, 2H), δ 1.68 (s, 2H), δ 1.55 (s, 4H), δ 1.26 (s, 6H), δ 0.84 (t, 3H) ppm; 13C NMR (75 MHz, CD3OD) δ 169.2, 159.5, 158.9, 147.5, 147.3, 131.1, 128.5, 127.6, 127.4, 108.5, 54.2, 51.9, 39.5, 35.6, 31.4, 30.9, 30.6, 28.4, 27.9, 27.6, 26.9, 24.1, 23.5, 22.9, 22.4, 13.3 ppm; HRMS (ESI) calcd for C24H35N7O (M+) 437.2903. found 437.2892.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.408 mmol, 0.113 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)biphenyl-4-carboxamide hydrochloride | 0.408 mmol, 0.106 g | Cl.NC=1NC=C(N1)CCCCCC=1N=NN(C1)CCNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
product | tert-butyl 2-amino-4-(5-(1-(2-(4-pentylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC=C(C=C1)CCCCC)=O)C(=O)OC(C)(C)C | C29H43N7O3
